// Generated for: spectre
// Generated on: May 27 02:49:30 2021
// Design library name: multiplier_low
// Design cell name: and2
// Design view name: av_extracted
simulator lang=spectre
global 0 vdd!
include "/home/SME_VLSI/VLSI_57/306cadence/test_files/2_AND_C2.input"
include "/home/SME_VLSI/306cadence/assuraTech/oa_2014/gpdk/../models/gpdk.scs" section=NN

// Library name: multiplier_low
// Cell name: and2
// View name: av_extracted
re3 (\1\:Out Out) resistor r=0.001222 c=0
rf1 (\1\:A A) resistor r=2.1 c=0
rf2 (net013 \2\:net013) resistor r=0.2434 c=0
rf3 (\2\:net013 \3\:net013) resistor r=0.3205 c=0
rf4 (\2\:net013 \4\:net013) resistor r=0.5422 c=0
rf5 (\1\:B B) resistor r=2.1 c=0
rf6 (\1\:Out \2\:Out) resistor r=2.0484 c=0
rf7 (\2\:Out \3\:Out) resistor r=0.6094 c=0
rf8 (\2\:Out \4\:Out) resistor r=0.2028 c=0
rf9 (\1\:gnd! \2\:gnd!) resistor r=0.3584 c=0
rf10 (\2\:gnd! \3\:gnd!) resistor r=0.07396 c=0
rf11 (\3\:gnd! 0) resistor r=0.05022 c=0
rf13 (\3\:gnd! \5\:gnd!) resistor r=0.3017 c=0
rf14 (\1\:vdd! \2\:vdd!) resistor r=0.4519 c=0
rf15 (\2\:vdd! vdd!) resistor r=0.07163 c=0
rf16 (vdd! \3\:vdd!) resistor r=0.1107 c=0
rf17 (\3\:vdd! \4\:vdd!) resistor r=0.4419 c=0
rf18 (vdd! \5\:vdd!) resistor r=0.5193 c=0
rg1 (\3\:A \4\:A) resistor r=91.5933 c=0
rg2 (\4\:A \1\:A) resistor r=3.7604 c=0
rg3 (\4\:A \5\:A) resistor r=62.0099 c=0
rg4 (\1\:B \2\:B) resistor r=3.7604 c=0
rg5 (\2\:B \3\:B) resistor r=62.0099 c=0
rg6 (\2\:B \4\:B) resistor r=91.5933 c=0
rg7 (\5\:net013 \6\:net013) resistor r=37.6755 c=0
rg8 (\6\:net013 net013) resistor r=19.7812 c=0
rg9 (\6\:net013 \7\:net013) resistor r=115.592 c=0
MP2 (\3\:Out \7\:net013 \1\:vdd! vdd!) pmos1 w=1e-06 l=1.8e-07 as=1.2e-12 \
        ad=1.2e-12 ps=5.2u pd=5.2u m=(1)*(1)
MP1 (\5\:vdd! \3\:B \4\:net013 vdd!) pmos1 w=1e-06 l=1.8e-07 as=1.2e-12 \
        ad=1.2e-12 ps=5.2u pd=5.2u m=(1)*(1)
MP0 (\4\:net013 \5\:A \4\:vdd! vdd!) pmos1 w=1e-06 l=1.8e-07 as=1.2e-12 \
        ad=1.2e-12 ps=5.2u pd=5.2u m=(1)*(1)
MN2 (\4\:Out \5\:net013 \1\:gnd! 0) nmos1 w=8e-07 l=1.8e-07 as=1.2e-12 \
        ad=1.2e-12 ps=5.2u pd=5.2u m=(1)*(1)
MN1 (\5\:gnd! \4\:B net9 0) nmos1 w=8e-07 l=1.8e-07 as=1.2e-12 ad=1.2e-12 \
        ps=5.2u pd=5.2u m=(1)*(1)
MN0 (net9 \3\:A \3\:net013 0) nmos1 w=8e-07 l=1.8e-07 as=1.2e-12 \
        ad=1.2e-12 ps=5.2u pd=5.2u m=(1)*(1)
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=30n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
